US08461161B2
To a degassed solution of (S)—N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-3-(trifluoromethyl)benzamide (210 mg, 0.5 mmol), 4-(hydroxymethyl)phenylboronic acid (152 mg, 1 mmol) and aqueous sodium carbonate (0.62 mL, 2M, 1.55 mmol) in N,N-dimethyl formamide (3 mL) was added dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium(II) (24 mg, 0.03 mmol) and the mixture was heated at 80° C. for 18 hours in a sealed tube. After this time the mixture was allowed to cool, was poured into a mixture of brine/water (2:3, 50 mL) and was extracted with a mixture of ethyl acetate/tetrahydrofuran (4:1, 3×30 mL). The combined organic extracts were concentrated under reduced pressure and the residue was taken up in ethyl acetate (50 mL), dried (Na2SO4) and concentrated under reduced pressure to give a black oil which was purified by flash chromatography (silica, ethyl acetate/hexanes) to give (S)—N-(3-(1-(6-(4-(hydroxymethyl)phenyl)pyrazin-2-ylamino)ethyl)phenyl)-3-(trifluoromethyl)benzamide (80 mg, 33%) as a pale yellow solid.

reactant | (S)—N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-3-(trifluoromethyl)benzamide | 0.5 mmol, 210 mg | ClC1=CN=CC(=N1)N[C@@H](C)C=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C20H16ClF3N4O
reactant | 4-(hydroxymethyl)phenylboronic acid | 1 mmol, 152 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 1.55 mmol, 2M, 0.62 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | brine water | 50 mL | [Cl-].[Na+].O.O
solvent | N,N-dimethyl formamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene)palladium(II) | 0.03 mmol, 24 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)—N-(3-(1-(6-(4-(hydroxymethyl)phenyl)pyrazin-2-ylamino)ethyl)phenyl)-3-(trifluoromethyl)benzamide | 80 mg, 33% | OCC1=CC=C(C=C1)C1=CN=CC(=N1)N[C@@H](C)C=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C27H23F3N4O2
